US07691855B2
36 g (0.178 Mol) of 1-(2-Chloro-ethoxy)-4-nitro-benzene is dissolved in 360 mL of ethanol and subjected to catalytic hydration at rt using PtO2 (1.5 g) as catalyst. The resulting suspension is diluted with CH2Cl2, filtered, and concentrated to approx. 150 mL. After cooling to 0° C. the crystals are filtered off, washed and dried at 60° C. under vacuum to obtain 4-(2-chloro-ethoxy)-phenylamine. Title compound: m.p.: 87-91° C.; ES-MS: 172 [M+H]+; single peak at tR=2.73 min (System 1).

reactant | 1-(2-Chloro-ethoxy)-4-nitro-benzene | 0.178 Mol, 36 g | ClCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H8ClNO3
solvent | ethanol | 360 mL | C(C)O | C2H6O
catalyst | PtO2 | 1.5 g | O=[Pt]=O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2-chloro-ethoxy)-phenylamine | ClCCOC1=CC=C(C=C1)N | C8H10ClNO
